datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]1([H:20])[C:14]2([H:21])[C:15]([H:22])([H:23])[C:16]([H:24])([H:25])[C:17]1([H:26])[C:18]([H:27])([H:28])[C:19]2([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]1([H:20])[C:14]2([H:21])[C:15]([H:22])([H:23])[C:16]([H:24])([H:25])[C:17]1([H:26])[C:18]([H:27])([H:28])[C:19]2([H:29])[H:30],24.6856
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][C:21]([H:22])([H:23])[H:24],45.735304
[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]12)([H:9])([H:10])[H:11]>>[C:0]([H:9])([H:10])[H:11].[C:1]1([H:12])=[C:8]2[C:3]([H:15])([C:2]1([H:13])[H:14])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])=[C:7]2[H:19],201.555832
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:20]([H:21])([H:22])[H:23])[H:10])([H:8])[H:9],19.2464
[O:0]([S:1])[H:2].[O:3][H:4]>>[H:2][O:3][H:4].[O:0][S:1],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])=[C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:12],121.462
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3].[C:8](=[O:9])[H:10]>>[C-:8]#[O+:9].[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])([H:3])[H:10],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:9])([H:7])[H:8],40.1246
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[H:7],24.6019
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9](=[S:10])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7](=[C:8][C:9](=[S:10])[H:14])([H:11])[H:12],113.972
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[S:13]=[C:14]([C:15]([S:16][H:19])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[S:13])[H:17])([S:16][H:19])[H:18],72.8016
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:18],191.418
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([O:15][O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:16][O:15][C:14]([H:17])([H:18])[H:19],61.96504
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([C:13]#[C:14][H:17])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:15])([C:13]#[C:14][H:17])[H:16],56.9024
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:29][O:30],199.11656
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([O:14][H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:17])([H:4])([H:5])[H:6].[C:13](=[O:14])([H:15])[H:16],0.0
